US09359381B2
Step 6: (1-((tert-Butyldimethylsilyl)oxy)-3-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl) ethanethioate
A solution of 1-((tert-butyldimethylsilyl)oxy)-3-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl methanesulfonate (705 mg, 1.241 mmol) and potassium thioacetate (709 mg, 6.20 mmol) in DMF (4964 μL) was heated at 70° C. for 4 hours. Further portions of potassium thioacetate (709 mg, 6.20 mmol) were added as necessary to allow the reaction to run to completion. The reaction mixture was cooled to room temperature, diluted with water (15 mL) and extracted with DCM (3×20 mL). The combined organic extracts were dried over magnesium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-50% EtOAc/hexane, afforded the title compound.

reactant | 1-((tert-butyldimethylsilyl)oxy)-3-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl methanesulfonate | 1.241 mmol, 705 mg | CS(=O)(=O)OC(CO[Si](C)(C)C(C)(C)C)CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C | C24H34FN3O6SSi
reactant | potassium thioacetate | 6.20 mmol, 709 mg | C(C)(=S)[O-].[K+]
reactant | potassium thioacetate | 6.20 mmol, 709 mg | C(C)(=S)[O-].[K+]
solvent | DMF | 4964 μL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | (1-((tert-Butyldimethylsilyl)oxy)-3-(5-(3-fluorophenyl)-1,3-dimethyl-2,4-dioxo-3,4-dihydro-1H-pyrrolo[3,4-d]pyrimidin-6(2H)-yl)propan-2-yl) ethanethioate | C(C)(OC(CO[Si](C)(C)C(C)(C)C)CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)=S | C25H34FN3O4SSi
